US07985755B2
Step 1: 4-(3-Chlorobenzyl)cyclohexanecarboxylic Acid
In a 50 ml beaker, Zn dust (3.6 g; 54 mmol) was added to 1N HCl and mixture was stirred with a glass rod. Aqueous was decanted off and solids were added to a mixture of trans-4-(3-chlorobenzoyl)cyclohexane-1-carboxylic acid (718 mg; 2.69 mmol) in 30 mL of formic acid. Mixture was heated to reflux for 2 hours. The reaction was cooled to room temperature and white solids were filtered off and rinsed with diethyl ether. Filtrate was concentrated and residue was taken up in a 40 mL mixture of diethyl ether and water (1:1). Organics were separated and aqueous was re-extracted with 2×20 mL of diethyl ether. Combined organics were washed with sat. NaHCO3, water, brine, and dried over MgSO4. Title compound was obtained as a crude oil. 550 mg (81% crude yield).

reactant | HCl | 1N | Cl | ClH
reactant | trans-4-(3-chlorobenzoyl)cyclohexane-1-carboxylic acid | 2.69 mmol, 718 mg | ClC=1C=C(C(=O)[C@@H]2CC[C@H](CC2)C(=O)O)C=CC1 | C14H15ClO3
solvent | formic acid | 30 mL | C(=O)O | CH2O2
catalyst | Zn | 54 mmol, 3.6 g | [Zn] | Zn
product | 4-(3-Chlorobenzyl)cyclohexanecarboxylic Acid | ClC=1C=C(CC2CCC(CC2)C(=O)O)C=CC1 | C14H17ClO2
